US07241810B2
Preparation 139: Methyl (2E)-3-[3-(2-oxopropyl)phenyl]acrylate
A solution of 3-bromophenylacetone (50.0 g, 235 mmol), methyl acrylate (40.4 g, 469 mmol), palladium(II)acetate (7.9 g, 35.2 mmol), tri-ortho-tolylphosphine (21.4 g, 70.4 mmol) and triethylamine (82 mL) in acetonitrile (900 mL) was heated at reflux under a nitrogen atmosphere for 16 hours. The reaction mixture was cooled to room temperature and the solvent removed in vacuo. Purification by flash column chromatography eluting with pentane:ethyl acetate 90:10 to 70:30 gave the title compound as an orange oil (54.3 g). 1H NMR (400 MHz, CD3OD) δ: 2.15 (3H, s), 3.70 (2H, s), 3.77 (3H, s), 6.43–6.39 (1H, d), 7.20–7.18 (1H, d), 7.34–7.31 (2H, t), 7.41–7.39 (1H, d), 7.66–7.62 (1H, d); LRMS ESI: m/z 241 [M+Na]+, 217 [M−H]−.

reactant | 3-bromophenylacetone | 235 mmol, 50.0 g | BrC=1C=C(C=CC1)CC(C)=O | C9H9BrO
reactant | methyl acrylate | 469 mmol, 40.4 g | C(C=C)(=O)OC | C4H6O2
reactant | tri-ortho-tolylphosphine | 70.4 mmol, 21.4 g | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
reactant | triethylamine | 82 mL | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 900 mL | C(C)#N | C2H3N
catalyst | palladium(II)acetate | 35.2 mmol, 7.9 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | Methyl (2E)-3-[3-(2-oxopropyl)phenyl]acrylate | 54.3 g | O=C(CC=1C=C(C=CC1)/C=C/C(=O)OC)C | C13H14O3
